US07446222B2
a) 2′-Bromo-biphenyl-3-carbonitrile
A mixture of 3-cyanophenylboronic acid (735 mg, 5 mmol), 1,2-dibromobenzene (2.36 g, 10 mmol) potassium carbonate (6.9 g, 50 mmol) and tetrakis(triphenylphosphine)palladium(0) (580 mg, 0.5 mmol) in 1:1 toluene/ethanol (40 ml) was stirred and heated at 90° C. under nitrogen for 3 hours. After cooling the mixture was diluted with diethyl ether and water and the organic phase dried (MgSO4) and evaporated to dryness. The residue was purified by chromatography using Biotage with ethyl acetate/iso-hexane (1:19) to yield the title compound as a white solid (895 mg 69%).

reactant | 3-cyanophenylboronic acid | 5 mmol, 735 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 1,2-dibromobenzene | 10 mmol, 2.36 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | toluene ethanol | 40 ml | C1(=CC=CC=C1)C.C(C)O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.5 mmol, 580 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Bromo-biphenyl-3-carbonitrile | 895 mg, 69% | BrC1=C(C=CC=C1)C1=CC(=CC=C1)C#N | C13H8BrN
